US07479558B2
To a stirring solution of 3-iodo-4-methylbenzoic acid (60 g, 0.22 mol, 1 eq) in degassed DMF (1400 mL, 23.3 vol.) was charged 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (81.4 g, 0.32 mol, 1.4 eq) followed by potassium acetate (112 g, 1.14 mole, 5eq) and [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (18.7 g, 0.02 mole, 0.1 eq). The resulting mixture was placed under a nitrogen atmosphere and was heated to 80° C. with the exclusion of light overnight. The mixture was then concentrated under high vacuum and the residue partitioned between EtOAc and 2M HCl. The mixture was then filtered and the layers separated. The aqueous phase was re-extracted with EtOAc. The combined organics were then washed with brine, dried and evaporated to yield a brown solid that was applied to a silica plug then eluted with 2:1 cyclohexane: ethyl acetate. Fractions were then combined and evaporated to yield a brown foam that was triturated with cyclohexane, collected by filtration then dried in vacuo to yield 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid. δ (CDCl3) 8.50-8.49 (1H, d), 8.04-8.02 (1H, dd), 7.27-7.25 (1H, d), 2.61 (3H, s), 1.36 (12H, s).

reactant | 3-iodo-4-methylbenzoic acid | 0.22 mol, 60 g, 1 eq | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 0.32 mol, 81.4 g, 1.4 eq | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.14 mole, 112 g, 5eq | C(C)(=O)[O-].[K+]
solvent | DMF | 1400 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | 0.02 mole, 18.7 g, 0.1 eq | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | CC1=C(C=C(C(=O)O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
